US07169773B2
(1Z)-5-methoxy-3,4-dihydronaphthalen-1 (2H)-one oxime
A solution of 6-methoxy-1-tetralone (5.0 g) in ethanol (100 mL) was treated with hydroxylamine hydrochloride (2.0 g) and sodium carbonate (3.6 g). The reaction mixture was heated overnight at 80° C. Cooled to room temperature after twenty hours, transferred to a 300 mL flask and concentrated. The residue was triturated in water and filtered to yield the title product as a brown solid (5.3 g) 1H NMR (400 MHz, CDCl3) 1.84–1.87(m, 2H), 2.72(t, J=6.2 Hz, 2H), 2.79(t, J=6.6 Hz, 2H), 3.80(s, 3H), 6.65(d, J=2.6 Hz, 1H), 6.76(dd, J=11.5, 2.7 Hz, 1H), 7.86 (d, J=8.8 Hz, 1H)

reactant | 6-methoxy-1-tetralone | 5.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | hydroxylamine hydrochloride | 2.0 g | Cl.NO
reactant | sodium carbonate | 3.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (1Z)-5-methoxy-3,4-dihydronaphthalen-1 (2H)-one oxime | 5.3 g | COC1=C2CCC/C(/C2=CC=C1)=N/O | C11H13NO2
